US08466193B2
A solution of benzylamine (0.77 mL, 7.0 mmol), ethyl 3-fluoro-4-nitrobenzoate (1.0 g, 4.7 mmol) and TEA (2 mL) was heated in DMF (10 mL) for 18 hr at 70° C. The solution was cooled to room temperature, diluted with ethyl acetate (200 mL) and washed with H2O (2×100 mL) then 1N HCl (2×100 mL). The organic layer was dried (MgSO4), filtered and then concentrated to provide 1.52 g (˜100%) of crude ethyl 3-(benzylamino)-4-nitrobenzoate as an orange solid. This material was used without further purification.

reactant | benzylamine | 7.0 mmol, 0.77 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | ethyl 3-fluoro-4-nitrobenzoate | 4.7 mmol, 1.0 g | FC=1C=C(C(=O)OCC)C=CC1[N+](=O)[O-] | C9H8FNO4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(benzylamino)-4-nitrobenzoate | 1.52 g, ~100% | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=CC1[N+](=O)[O-] | C16H16N2O4
